US05149864
N-(N'-Butylcarbamoyl)peroxyglutaramic acid
80.8 g (0.35 mol) of N-(N'-butylcarbamoyl)glutaramic acid, 123 g of methanesulfonic acid and 42 g (1.05 mol) of hydrogen peroxide (85% strength by weight) are reacted and worked up as described in Example 3.

reactant | N-(N'-butylcarbamoyl)glutaramic acid | 0.35 mol, 80.8 g | C(CCC)NC(=O)NC(CCCC(=O)O)=O | C10H18N2O4
reactant | methanesulfonic acid | 123 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 1.05 mol, 42 g | OO | H2O2
product | N-(N'-Butylcarbamoyl)peroxyglutaramic acid | C(CCC)NC(=O)NC(CCCC(=O)OO)=O | C10H18N2O5
